US08420855B2
Preparation of 5-amino-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2-ethylamino-benzamide
N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2-ethylamino-5-nitrobenzamide (3.0 g, 6.2 mmol) (see Example I5) was dissolved in isopropanol (50 ml) and tin chloride (4.2 g, 22.3 mmol) was added. The mixture was cooled to 0° C. and a solution of concentrated hydrogen chloride (6 ml) was added slowly. The reaction mixture was stirred at 80° C. for 2 hours. Then ⅓ of the total volume of isopropanol was evaporated. Water (100 ml) was added to the concentrated mixture and a solution of aqueous sodium hydroxide (4N) to adjust the pH to 7-8. The aqueous phase was extracted three times with ethyl acetate (200 ml). The combined organic extracts were dried over sodium sulfate and concentrated. The residue was used without further purification (2.8 g, 100% yield).

reactant | N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2-ethylamino-5-nitrobenzamide | 6.2 mmol, 3.0 g | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(C1=C(C=CC(=C1)[N+](=O)[O-])NCC)=O | C20H18F7N3O3
reactant | tin chloride | 22.3 mmol, 4.2 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | hydrogen chloride | 6 ml | Cl | ClH
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 5-amino-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2-ethylamino-benzamide | 100% yield | NC=1C=CC(=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C1)NCC | C20H20F7N3O
